US08053577B2
(5R,9R,11E)-5-(3-phenylprop-2-en-1-ylideneamino)-11-ethylidene-5,6,9,10-tetrahydro-7-methyl-5,9-methanocycloocta[b]pyridin-2(1H)-one
20 mg Huperzine A, and 77 mg cinnamaldehyde were refluxed in 2 mL isopropanol for 3 hours. Solvent was removed under vacuum. The crude reaction mixture was dissolved in 3 mL anhydrous THF and purified with prep. TLC (CHCl3: methanol=9:1) to give 28 mg of title product. MS: 357 (M+H).

reactant | Huperzine A | 20 mg | C/C=C/1\[C@@H]2CC3=C([C@@]1(CC(=C2)C)N)C=CC(=O)N3 | C15H18N2O
reactant | cinnamaldehyde | 77 mg | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (5R,9R,11E)-5-(3-phenylprop-2-en-1-ylideneamino)-11-ethylidene-5,6,9,10-tetrahydro-7-methyl-5,9-methanocycloocta[b]pyridin-2(1H)-one | 28 mg | C1(=CC=CC=C1)C=CC=N[C@@]1/2CC(=C[C@@H](CC=3NC(C=CC31)=O)\C2=C/C)C | C24H24N2O
